US06900216B2
n-Butyllithium (1.6 M solution in hexanes; 28.9 ml) was added dropwise under nitrogen at 0° C. to a stirred solution of benzo[b]thiophene (6.21 g) in ether (90 ml), then the mixture was stirred 0° C. for 15 minutes and cooled to −70° C. A solution of N-methoxy-N-methylpropionamide (5.42 g) in ether (40 ml) was added over 10 minutes, then the mixture was allowed to warm to ambient temperature and was stirred at ambient temperature for 3.5 hours. The mixture was poured into saturated aqueous ammonium chloride solution (200 ml) and ethyl acetate (100 ml) and water (50 ml) were added. The organic phase was separated, washed with saturated aqueous sodium chloride solution (150 ml), dried (Na2SO4) and the solvents were removed in vacua. The residue was triturated with petroleum ether (b.p. 40-60° C.) (25 ml) and the resulting solid was collected by filtration and dried in vacuo to give 1-(benzo[b]thiophen-2-yl)propan-1-one (7.05 g) as a colourless solid, m.p. 79-81° C.

reactant | n-Butyllithium | 1.6 M, 28.9 ml | C(CCC)[Li]
reactant | benzo[b]thiophene | 6.21 g | S1C2=C(C=C1)C=CC=C2 | C8H6S
reactant | N-methoxy-N-methylpropionamide | 5.42 g | CON(C(CC)=O)C | C5H11NO2
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | ether | 90 ml | CCOCC | C4H10O
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-(benzo[b]thiophen-2-yl)propan-1-one | 7.05 g | S1C2=C(C=C1C(CC)=O)C=CC=C2 | C11H10OS
